US07884207B2
A mixture of ethyl 4-hydroxy-4-{[(3-nitroquinolin-4-yl)amino]methyl}piperidine-1-carboxylate (4.53 g, 12.1 mmol) and 5% platinum on carbon (0.50 g) in ethanol was hydrogenated on a Parr apparatus at 40 psi (2.8×105 Pa) for 2.5 h. The mixture was filtered through CELITE filter agent and the filtrate was concentrated. The residue was concentrated twice from toluene and once from chloroform to remove the ethanol, then was dissolved in dichloromethane (100 mL). To the solution at 0° C. was added triethylamine (1.86 mL, 13.3 mmol) and ethoxyacetyl chloride (88%, 1.77 g, 12.7 mmol). After 1 h at rt, the solution was concentrated to a yellow foam and ethanol (120 mL) and triethylamine (6 mL) were added. The resulting solution was heated at reflux for 16 h and then concentrated in vacuo. The residue was partitioned between dichloromethane and water. The organic layer was washed twice with brine, dried over MgSO4, filtered, and concentrated to a crude yellow oil. The oil was purified by flash chromatography (silica gel, gradient elution with 2-7% methanol/dichloromethane) to provide ethyl 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-hydroxypiperidine-1-carboxylate as a yellow foam (3.04 g, 61%).

reactant | ethyl 4-hydroxy-4-{[(3-nitroquinolin-4-yl)amino]methyl}piperidine-1-carboxylate | 12.1 mmol, 4.53 g | OC1(CCN(CC1)C(=O)OCC)CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C18H22N4O5
reactant | triethylamine | 13.3 mmol, 1.86 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 12.7 mmol, 1.77 g | C(C)OCC(=O)Cl | C4H7ClO2
catalyst | platinum on carbon | 0.50 g | [Pt] | Pt
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-hydroxypiperidine-1-carboxylate | 3.04 g, 61% | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCN(CC1)C(=O)OCC)O | C22H28N4O4
